US04088764
The 6-methylnicotinoyl-acetone which is mentioned as the starting substance in Example 6, can be obtained in a known manner from α-picoline-5-carboxylic acid ethyl ester and acetone, or from 5-acetyl-α-picoline (prepared in accordance with Angew. Ch. 67, page 398) and ethyl acetate: 270 g of 5-acetyl-α-picoline, 5 1 of anhydrous toluene, 387 g. of ethyl acetate and 537 g of potassium tert.-butylate are stirred at 40° for 20 hours and the mixture is subsequently decomposed by means of a mixture of 3 1 of ice water and 288 ml of acetic acid. 283.5 g of 6-methylnicotinoyl-acetone, boiling point 108°-117° /0.2 mm Hg, which rapidly crystallises and, after recrystallisation from ligroin, melts at 57°-58°, is obtained in the usual manner from the toluene solution.

reactant | 6-methylnicotinoyl-acetone | CC1=NC=C(C(=O)CC(C)=O)C=C1 | C10H11NO2
reactant | acetone | CC(=O)C | C3H6O
product | α-picoline-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CC(=NC1)C | C9H11NO2
